US07700786B2
Reaction of 3-(3-chloro-5-trifluoromethylpyridin-2-yloxy)-5-ethylpyrazole with ethyl isocyanate was carried out in the same manner as in Example 164, to give a white solid of N-ethyl-3-(3-chloro-5-trifluoromethylpyridin-2-yloxy)-5-ethylpyrazole-1-carboxamide (0.25 g, yield: 23.0%). mp: 85-86° C.; 1H-NMR (CDCl3, TMS, ppm): δ 1.23 (t, J=7.3 Hz, 3H), 1.30 (t, J=7.5 Hz, 3H), 3.13 (q, J=7.5 Hz, 2H), 3.40 (dq, J=5.9 and 7.3 Hz, 2H), 6.08 (s, 1H), 6.90-7.15 (m, 1H), 8.02 (d, J=2.1 Hz, 1H), 8.37 (m, 1H).

reactant | 3-(3-chloro-5-trifluoromethylpyridin-2-yloxy)-5-ethylpyrazole | ClC=1C(=NC=C(C1)C(F)(F)F)OC1=NNC(=C1)CC | C11H9ClF3N3O
reactant | ethyl isocyanate | C(C)N=C=O | C3H5NO
product | N-ethyl-3-(3-chloro-5-trifluoromethylpyridin-2-yloxy)-5-ethylpyrazole-1-carboxamide | 0.25 g, yield: 23.0% | C(C)NC(=O)N1N=C(C=C1CC)OC1=NC=C(C=C1Cl)C(F)(F)F | C14H14ClF3N4O2
